US05767285
4-(4-Acetyl-2,6-dimethoxyphenoxy)butanoic acid
Utilizing the procedure of Preparation 3, 2.61 g (13.32 mmol) of 4-acetyl-2,6-dimethoxyphenol is treated with ethyl 4-bromobutyrate. This gives the desired product after drying at -70° C., under high vacuum, as a brown oil. This is chromatographed on a column of silica gel, and eluted with a 1:1 mixture of ether/hexane leaving 0.40 g (10%) of 4-(4-acetyl-2,6-dimethoxyphenoxy)butanoic acid, ethyl ester as a colorless oil: IR (neat) 1735, 1675 cm-1 ; 1H-NMR (CDCl3) is consistent with the desired product; MS (FAB) m/e 311.1489 Δ=+0.6 mmμ (M+ +H). Analysis calculated. for C16H22O6 : C, 61.92; H, 7.14; O, 30.94. Found: C, 61.48; H, 7.04; O, 31.48.

reactant | 4-acetyl-2,6-dimethoxyphenol | 13.32 mmol, 2.61 g | C(C)(=O)C1=CC(=C(C(=C1)OC)O)OC | C10H12O4
reactant | ethyl 4-bromobutyrate | BrCCCC(=O)OCC | C6H11BrO2
product | 4-(4-Acetyl-2,6-dimethoxyphenoxy)butanoic acid | C(C)(=O)C1=CC(=C(OCCCC(=O)O)C(=C1)OC)OC | C14H18O6
